US05519064
A solution of phenyl-[1-(2-phenylethyl)-4-piperidyl]-ketone (0.10 g) in tetrahydrofuran (0.40 g) was added to wet surface-modified adsorbent of Example 10 (1.0 g) in excess aqueous NaOH pH 9.0 (2.0 mL). This mixture was stirred at ambient temperature for 30 minutes. After this, NaBH4 (20 mg) was added and the resulting mixture was stirred at ambient temperature for 16 hours. The liquid phase was then decanted and the adsorbent was washed with tetrahydrofuran in order to quantitatively extract all product from the resin. The tetrahydrofuran washings were combined with liquid phase and analyzed by chiral High Pressure Liquid Chromatography (HPLC) using a Chiracel OD-R column commercially available from Chiral Technologist Incorporation and 1.0M aqueous NaClO4 /acetonitrile (60/40 by volume) as a mobile phase. The product α-phenyl-[1-(2-phenylethyl )]-4-piperidinemethanol of a moderate enantiomeric purity (enantiomeric excess of S (-)=25 percent) was obtained.

reactant | phenyl-[1-(2-phenylethyl)-4-piperidyl]-ketone | 0.10 g | C1(=CC=CC=C1)C(=O)C1CCN(CC1)CCC1=CC=CC=C1 | C20H23NO
reactant | NaBH4 | 20 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 0.40 g | O1CCCC1 | C4H8O
solvent | NaOH | 2.0 mL, pH 9.0 | [OH-].[Na+]
product | α-phenyl-[1-(2-phenylethyl )]-4-piperidinemethanol | C1(=CC=CC=C1)C(O)C1CCN(CC1)CCC1=CC=CC=C1 | C20H25NO
